US08791161B2
N-[5-chloro-2-(methylthio)phenyl]-1-benzofuran-2-sulfonamide
Following General Procedure B, the title compound (243 mg, 60%) was prepared from 5-chloro-2-(methylthio)aniline (CAS 16423-54-4) (200 mg, 1.15 mmol) and 1-benzofuran-2-sulfonyl chloride (249 mg, 1.152 mmol).

reactant | 5-chloro-2-(methylthio)aniline | 1.15 mmol, 200 mg | ClC=1C=CC(=C(N)C1)SC | C7H8ClNS
reactant | 1-benzofuran-2-sulfonyl chloride | 1.152 mmol, 249 mg | O1C(=CC2=C1C=CC=C2)S(=O)(=O)Cl | C8H5ClO3S
product | N-[5-chloro-2-(methylthio)phenyl]-1-benzofuran-2-sulfonamide | 243 mg, 60% | ClC=1C=CC(=C(C1)NS(=O)(=O)C=1OC2=C(C1)C=CC=C2)SC | C15H12ClNO3S2
